US07989628B2
N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-quinoline-2,5-diamine
The title compound, MS: m/e=438.3 (M+H+), was prepared in accordance with the general method of example 3 from 2-chloro-5-iodo-quinoline (CAS 455955-26-7), 7-amino-2,3-dihydro-2,2-dimethylbenzofuran (CAS 68298-46-4) and 1,1-dioxo-tetrahydro-2H-thiopyran-4-amine.

reactant | 2-chloro-5-iodo-quinoline | ClC1=NC2=CC=CC(=C2C=C1)I | C9H5ClIN
reactant | 7-amino-2,3-dihydro-2,2-dimethylbenzofuran | NC1=CC=CC=2CC(OC21)(C)C | C10H13NO
reactant | 1,1-dioxo-tetrahydro-2H-thiopyran-4-amine | O=S1(CCC(CC1)N)=O | C5H11NO2S
product | N2-(2,2-Dimethyl-2,3-dihydro-benzofuran-7-yl)-N5-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-quinoline-2,5-diamine | CC1(OC2=C(C1)C=CC=C2NC2=NC=1C=CC=C(C1C=C2)NC2CCS(CC2)(=O)=O)C | C24H27N3O3S
